US07786129B2
3-{3-[4-(3-Chlorophenyl)-piperazin-1-yl]-propyl}-3-ethyl-1,3-dihydro-2H-indol-2-one
The title compound is prepared according to process H by applying processing method 1 starting from 3-(3-chloropropyl)-3-ethyl-1,3-dihydro-2H-indol-2-one and 1-(3-chlorophenyl)-piperazine.

reactant | 3-(3-chloropropyl)-3-ethyl-1,3-dihydro-2H-indol-2-one | ClCCCC1(C(NC2=CC=CC=C12)=O)CC | C13H16ClNO
reactant | 1-(3-chlorophenyl)-piperazine | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
product | 3-{3-[4-(3-Chlorophenyl)-piperazin-1-yl]-propyl}-3-ethyl-1,3-dihydro-2H-indol-2-one | ClC=1C=C(C=CC1)N1CCN(CC1)CCCC1(C(NC2=CC=CC=C12)=O)CC | C23H28ClN3O
